US08217043B2
e) 1-Benzylamino-3,4,5-trichloro-1H-pyrrole-2-carboxylic acid methyl ester
1-(Benzyl-tert-butoxycarbonyl-amino)-3,4,5-trichloro-1H-pyrrole-2-carboxylic acid methyl ester (509 mg, 1.17 mmol) was stirred in a mixture of dichloromethane (5 mL) and TFA (5 mL) at rt for 30 m in; then concentrated, the residue was dissolved in EtOAc, washed with diluted sodium bicarbonate, and saturated NaCl solution, dried over sodium sulfate, filtered, concentrated to give the crude product (394 mg) as white solid. ESI (m/z): 334 (M+H)+.

reactant | 1-(Benzyl-tert-butoxycarbonyl-amino)-3,4,5-trichloro-1H-pyrrole-2-carboxylic acid methyl ester | 1.17 mmol, 509 mg | COC(=O)C=1N(C(=C(C1Cl)Cl)Cl)N(C(=O)OC(C)(C)C)CC1=CC=CC=C1 | C18H19Cl3N2O4
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-Benzylamino-3,4,5-trichloro-1H-pyrrole-2-carboxylic acid methyl ester | 394 mg | COC(=O)C=1N(C(=C(C1Cl)Cl)Cl)NCC1=CC=CC=C1 | C13H11Cl3N2O2
